* C:\Users\shann\Dropbox\moog\bonkulator\spice\cap_mult.asc
V2 Vin 0 SINE(10 2 1000)
Q2 P001 N002 Vout 0 2N4401
C1 N002 0 330nF
R6 N001 Vin 10K
C2 Vout 0 330nF
R1 Vout 0 500
Q1 Vout P001 Vin 0 2SAR554R
C3 N001 0 330nF
R2 N002 N001 10K
.model NPN NPN
.model PNP PNP
.lib C:\Users\shann\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 .01 0 .001
.backanno
.end
