* C:\Users\shann\Dropbox\moog\bonkulator\spice\cap_mult2.asc
V2 Vin 0 SINE(10 2 1000)
Q2 Vin N001 Vout 0 2N3904
C1 N001 0 330nF
C2 Vout 0 330nF
R1 Vout 0 500
R2 N001 Vin 20K
.model NPN NPN
.model PNP PNP
.lib C:\Users\shann\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 .01 0 .001
.backanno
.end
