* C:\Users\shann\Dropbox\moog\bonkulator\spice\inputx.asc
XU1 N002 Output +12 -12 Output AD823
V1 N001 0 3.3
V2 +12 0 12
V3 0 -12 12
V4 N003 0 SINE(0 5 10)
R1 N002 N003 116.7K
R2 0 N002 50K
R3 N002 N001 35K
.tran 0 .5 0
.lib ADI.lib
.backanno
.end
