* C:\Users\shann\Dropbox\moog\bonkulator\spice\output3.asc
XU1 N005 N002 +12 -12 Output AD823
V1 N003 0 -1.65
V2 +12 0 12
V3 0 -12 12
V4 N001 0 SINE(1.65 1.65 5)
R1 Output N002 332K
R2 N002 N001 100K
R3 N005 0 47K
R4 N002 N003 100K
R5 N002 N004 100K
R6 N004 N003 10
.tran 1
.lib ADI.lib
.backanno
.end
